US09226916B2
In analogy to the procedure described for the synthesis of example 73, the title [(3S,4R)-4-(4-chloro-phenyl)-1-(1-propionyl-pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-1-(pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using propionyl chloride and was obtained as a light yellow oil. MS m/e: 502.2 [M+H]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-1-(pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CNCC1)=O | C23H25ClFN3O3
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(1-propionyl-pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CN(CC1)C(CC)=O)=O | C26H29ClFN3O4
